US08357703B2
6-((3-Butyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 25e, 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (200 mg, 0.69 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (180 mg, 73%) which was obtained as a white solid after purification by chromatography (silica, 40 to 60% ethyl acetate in heptane). MS: m/e=360.2 [M+H]+.

reactant | 6-(3-butyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.69 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)CCCC)=O | C15H18N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-((3-Butyl-isoxazol-4-yl)methoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 180 mg, 73% | C(CCC)C1=NOC=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C19H25N3O4
